US09079888B2
Step (iii): Preparation of 4-(1-Cyclobutyl piperidin-4-yloxy)benzylamine
A solution of 4-(1-Cyclobutyl piperidin-4-yloxy)benzonitrile (8.22 g, 0.032 moles) in dry tetrahydrofuran (50 mL) was added to a stirred solution of lithium aluminium hydride (3.74 g, 0.098 moles) in dry tetrahydrofuran (30 mL), at 10 to 15° C. under nitrogen atmosphere. The resulting mass was further stirred for 20 minutes at ambient temperature and then refluxed for 4 hours. After completion of reaction, the mass was cooled to 10-15° C., quenched with water and basified with 4N sodium hydroxide solution. Reaction mass was filtered through celite and cake was washed with ethyl acetate. The separated organic layer was dried over sodium sulphate and concentrated under reduced pressure to obtain the title compound 7.17 g (Yield: 86.2%).

reactant | 4-(1-Cyclobutyl piperidin-4-yloxy)benzonitrile | 0.032 moles, 8.22 g | C1(CCC1)N1CCC(CC1)OC1=CC=C(C#N)C=C1 | C16H20N2O
reactant | lithium aluminium hydride | 0.098 moles, 3.74 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 4-(1-Cyclobutyl piperidin-4-yloxy)benzylamine | 7.17 g, Yield: 86.2% | C1(CCC1)N1CCC(CC1)OC1=CC=C(CN)C=C1 | C16H24N2O
